US07378418B2
Preparation of 7,8-Bis(4-chlorophenyl)-2-(3-ethoxy-2-hydroxy-2-methylpropyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
MeMgBr (0.03 mL, 0.08 mmol, 3.0 M in Et2O) was added to a solution of 7,8-bis(4-chlorophenyl)-2-(3-ethoxy-2-oxopropyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, prepared as described in Example 30, (23 mg, 0.05 mmol) at −78° C. The reaction was stirred for 30 min. at −78° C. After this time, saturated aqueous NH4Cl (2 mL) was added to the reaction and the resultant solution was warmed to RT. The layers were separated and the aqueous layer was extracted with EtOAC (3×10 mL). The combined organic layers were dried (MgSO4), filtered, and concentrated. The crude product was purified by reverse phase HPLC to give the title compound, 7,8-bis(4-chlorophenyl)-2-(3-ethoxy-2-hydroxy-2-methylpropyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (4 mg, 16% yield) as a yellow oil. MS [M+H]+: found 473; 1H NMR (CDCl3, 400 MHz) δ 8.13 (s, 1H), 7.29-7.18 (m, 6H), 7.06-7.02 (m, 2H), 4.25 (d, 1H), 3.98 (d, 1H), 3.43 (q, 2H), 3.35 (d, 1H), 3.25 (d, 1H), 1.18 (s, 3H), 1.07 (t, 3H).

reactant | MeMgBr | 0.08 mmol, 3.0 M, 0.03 mL | C[Mg+].[Br-]
reactant | 7,8-bis(4-chlorophenyl)-2-(3-ethoxy-2-oxopropyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)CC(COCC)=O)=O)C2=CC=C(C=C2)Cl | C22H18Cl2N4O3
reactant | NH4Cl | 2 mL | [NH4+].[Cl-]
product | 7,8-bis(4-chlorophenyl)-2-(3-ethoxy-2-hydroxy-2-methylpropyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 4 mg, 16% yield | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)CC(COCC)(C)O)=O)C2=CC=C(C=C2)Cl | C23H22Cl2N4O3
